US07390903B2
To a stirred solution of 50 mg (0.15 mmol) (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-(4-methanesulfonyl-phenyl)-methanone in 2 ml acetic acid was added 0.020 ml (0.15 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 20 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CH3CN/H20) afforded 18 mg (27%) 2,2,2-trifluoro-1-[4-(4-methanesulfonyl-phenyl)-2-methyl-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as a light brown solid. ES-MS m/e (%): 440 (M+H+, 100).

reactant | (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-(4-methanesulfonyl-phenyl)-methanone | 0.15 mmol, 50 mg | NC1=C(C2=C(S1)CCC2)C(=O)C2=CC=C(C=C2)S(=O)(=O)C | C15H15NO3S2
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.15 mmol, 0.020 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2,2,2-trifluoro-1-[4-(4-methanesulfonyl-phenyl)-2-methyl-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 18 mg, 27% | FC(C(=O)C=1C(=C2C(=NC1C)SC1=C2CCC1)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C20H16F3NO3S2
